US06417200B1
A) 4-methoxycarbonyl-N2-(4-t-butylbenzoyl)-1,2-benzenediamine
Using a procedure similar to Example 1B except starting with 4-methoxycarbonyl-1,2-benzenediamine and 4-t-butylbenzoyl chloride, the title compound was obtained as a solid (10.8 g, 65%); MS(FD): 326.2.

reactant | 4-methoxycarbonyl-1,2-benzenediamine | COC(=O)C=1C=C(C(=CC1)N)N | C8H10N2O2
reactant | 4-t-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 4-methoxycarbonyl-N2-(4-t-butylbenzoyl)-1,2-benzenediamine | COC(=O)C=1C=C(C(=CC1)N)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C19H22N2O3
